US06846835B2
2-Thioxohexahydropyrimidin-5-yl(2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-phenylethanoate
Using (2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-phenylacetic acid and 5-hydroxytetrahydropyrimidine-2(1H)-thion (cf. JP-Hei01 (1989)-128970A), the title compound was prepared by a method similar to Step 2 of Referential Example 12.

reactant | (2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-phenylacetic acid | FC1(C[C@@H](CC1)[C@](C(=O)O)(C1=CC=CC=C1)O)F | C13H14F2O3
reactant | 5-hydroxytetrahydropyrimidine-2(1H)-thion | OC1CNC(NC1)=S | C4H8N2OS
product | 2-Thioxohexahydropyrimidin-5-yl(2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-phenylethanoate | FC1(C[C@@H](CC1)[C@](C(=O)OC1CNC(NC1)=S)(C1=CC=CC=C1)O)F | C17H20F2N2O3S
